US09120761B2
3-(2-(2-((2-Methoxy-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzamide (5)
A mixture of tert-butyl 4-(4-((4-((3-carbamoylphenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-methoxyphenyl)piperidine-1-carboxylate (I35) (0.073 g, 0.12 mmol) and 10% palladium on activated carbon (0.042 g) in DMF (3 mL) was stirred under a hydrogen atmosphere for 20 hours. The resulting mixture was filtered and filtrate evaporated to dryness under reduced pressure. The residue was chromatographed on silica gel (20-100% acetone/petroleum benzine 40-60° C.) to give the title compound (I36) (0.070 g, 95%).

reactant | tert-butyl 4-(4-((4-((3-carbamoylphenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-methoxyphenyl)piperidine-1-carboxylate | 0.12 mmol, 0.073 g | C(N)(=O)C=1C=C(C=CC1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C31H32F3N5O4
catalyst | palladium on activated carbon | 0.042 g | [Pd] | Pd
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-(2-(2-((2-Methoxy-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzamide | COC1=C(C=CC(=C1)C1CCNCC1)NC1=NC=C(C(=N1)CCC=1C=C(C(=O)N)C=CC1)C(F)(F)F | C26H28F3N5O2
